US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-3-(E)-(4-chlorophenyl)acrylamide
109 mg (0.55 mmol) of 3-(2-aminoethoxy)benzonitrile hydrochloride, 85 mg (0.55 mmol) of 1-hydroxybenzotriazole (hydrate), 105 mg (0.55 mmol) of 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride, 61 mg (0.6 mmol) of triethylamine, and 100 mg (0.55 mmol) of p-chloro-cinnamic acid were used, and the title compound was obtained in the same manner as in step 1 in Example 211.

reactant | 3-(2-aminoethoxy)benzonitrile hydrochloride | 0.55 mmol, 109 mg | Cl.NCCOC=1C=C(C#N)C=CC1
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 85 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.55 mmol, 105 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 0.6 mmol, 61 mg | C(C)N(CC)CC | C6H15N
reactant | p-chloro-cinnamic acid | 0.55 mmol, 100 mg | ClC1=CC=C(C=CC(=O)O)C=C1 | C9H7ClO2
product | N-[2-(3-cyanophenoxy)ethyl]-3-(E)-(4-chlorophenyl)acrylamide | C(#N)C=1C=C(OCCNC(\C=C\C2=CC=C(C=C2)Cl)=O)C=CC1 | C18H15ClN2O2
